US08859553B2
4-Chloro-3-(2-(6-(cyclobutylamino)pyridazin-3-yl)ethynyl)-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-cyclobutyl-6-ethynylpyridazin-3-amine and 4-chloro-3-iodo-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 153-155° C.; 1H NMR (300 MHz, CDCl3) δ: 10.34 (1H, s), 8.36 (1H, s), 8.24-8.27 (1H, d, J=8.1 Hz), 8.03 (1H, s), 7.82-7.85 (1H, d, J=8.1 Hz), 7.48 (1H, s), 7.41-7.44 (1H, d, J=8.7 Hz), 7.34-7.37 (2H, t, J=9.3 and 8.7 Hz), 6.80 (1H, s), 6.61-6.64 (1H, d, J=9.6 Hz), 5.57-5.59 (1H, d, J=6.0 Hz), 4.22-4.29 (1H, m), 2.45-2.48 (2H, m), 2.28 (3H, s), 1.76-2.01 (4H, m). HRMS (ESI-TOF+): m/z [M+2H]+2 calcd for C28H24ClF3N6O: 276.0821. found: 276.0817.

reactant | N-cyclobutyl-6-ethynylpyridazin-3-amine | C1(CCC1)NC=1N=NC(=CC1)C#C | C10H11N3
reactant | 4-chloro-3-iodo-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)N2C=NC(=C2)C)C(F)(F)F)C=C1)I | C18H12ClF3IN3O
product | 4-Chloro-3-(2-(6-(cyclobutylamino)pyridazin-3-yl)ethynyl)-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)N2C=NC(=C2)C)C(F)(F)F)C=C1)C#CC=1N=NC(=CC1)NC1CCC1 | C28H22ClF3N6O
